2184-06-21 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2184-6-20**] 01:50 PM
   -Patient afib with rates to 120's, initially with 5mg IV metoprolol,
   then 25mg PO metoprolol x 2 with some response.
   Allergies:
   Penicillins
   Rash;
   Triamterene
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2184-6-21**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2184-6-20**] 04:00 PM
   Metoprolol - [**2184-6-20**] 10:30 PM
   Fentanyl - [**2184-6-21**] 12:00 AM
   Midazolam (Versed) - [**2184-6-21**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-21**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 86 (59 - 123) bpm
   BP: 134/48(67) {93/40(50) - 142/77(84)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,980 mL
                                                                    666 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    200 mL
                                                                    426 mL
   Blood products:
   Total out:
                                                                  4,075 mL
                                                                    650 mL
   Urine:
                                                                  2,775 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,095 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 380 (380 - 380) mL
   Vt (Spontaneous): 427 (328 - 427) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   Compliance: 29.2 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/47/76/34/2
   Ve: 6.5 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General: intubated, interactive  following commands and can answer
   simple yes/no questions
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: decreased air movement throughout, mild expiratory wheeze, few
   crackles at bases
   CV: Regular rate and rhythm, normal S1 + S2, [**3-19**] harsh systolic murmur
   at USB
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: Warm, well perfused, no clubbing, cyanosis or edema
   Labs / Radiology
   222 K/uL
   11.4 g/dL
   168 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.9 mEq/L
   20 mg/dL
   97 mEq/L
   134 mEq/L
   33.3 %
   6.9 K/uL
        [image002.jpg]
                             [**2184-6-20**]  03:15 PM
                             [**2184-6-20**]  07:38 PM
                             [**2184-6-21**]  03:42 AM
   WBC
   6.6
   6.9
   Hct
   35.6
   33.3
   Plt
   230
   222
   Cr
   0.8
   0.9
   TropT
   <0.01
   TCO2
   30
   Glucose
   122
   168
   Other labs: PT / PTT / INR:13.7/35.5/1.2, CK / CKMB /
   Troponin-T:/3/<0.01, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a [**Age over 90 211**] year-old female with CHF, CAD, AS/AI,
   asthma, presents with dyspnea and fever, now intubated.
   # Dyspnea: Likely multifactorial. Concern for pneumonia given fever and
   cough, could be bacterial vs viral. Based on CXR and elevated BNP, also
   likely element of CHF. Additionally, pt is wheezy with poor air
   movement throughout, which supports asthma exacerbation (vs cardiac
   wheeze). Given lasix 40 x 1 with 1 L negative since admission.  CE neg
   x 2.
   - wean vent as tolerated
   - alb and atrovent MDI
   - prednisone 60mg PO daily
   - repeat lasix, goal 1 L net negative today
   - cover empirically with vanco/meropenem; watch for allergic reaction
   on meropenem given h/o rash to penicillin (~10% cross reactivity), if
   cx negative x 48 hours will consider changing abx regimen
   - daily CXR
   - check TTE to eval systolic function, aortic valve
   .
   # Afib c/ RVR. Patient afib with rates to 120's, initially with 5mg IV
   metoprolol, then 25mg PO metoprolol x 2 with some response. Rate now in
   80s.
   - Metoprolol currently at 25 mg tid, will attempt to increase to home
   dose (metoprolol 50 mg tid) as BP tolerates.
   # Fever: Likely pulmonary source given cough and no other localizing
   signs or symptoms of infection. Blood and urine cx pending, though UA
   negative. Continues to be afebrile in ICU. No leukocytosis.
   - empiric vanco/meropenem
   - f/u bcx, ucx
   - send sputum cx
   - cont to monitor fever/WBC curve
   - tylenol prn
   .
   # Hypotension: In ED in the setting of intubation and sedation meds.
   Quickly resolved with IVF. Now normotensive. Has history of
   hypertension.
   - cont to monitor
   - infectious w/u and management as above
   - add back home antihypertensives as BP tolerates.
   # CAD: h/o MI in [**2178**]. Per OMR, has rest angina at baseline. Trop neg
   in ED, EKG at baseline with old LBBB.
   - cycle enzymes, CE neg x 2
   - cont ASA, statin
   - restart BB and ACEI as BP tolerates
   # Hyperlipidemia: cont statin
   # Glaucoma: cont eye drops
   # FEN: No IVF, replete electrolytes, NPO for now
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PPI
   # Access: peripherals
   # Code: full code per discussion with sister in law and nephew
   - pt has been clear in discussion with family that she would not want
   to be on a life supporting machine for a prolonged period of time
   # Communication: unclear HCP
   - sister in law [**Name (NI) 3578**] [**Name (NI) 1456**] ([**Telephone/Fax (1) 7476**])
   - nephew
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-6-20**] 01:50 PM
   Prophylaxis:
   DVT: SQH, pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2184-06-22 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - unresponsive episode during SBT, CXR concerning for aspiration event
   vs. flash pulmonary edema, therefore remained intubated
   - given 40 IV lasix x 3
   - restarted on home BP meds, metoprolol 50 mg tid, imdur, and
   lisinopril
   - Echo done
   - CE neg x 2
   Allergies:
   Penicillins
   Rash;
   Triamterene
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2184-6-21**] 07:58 AM
   Meropenem - [**2184-6-21**] 05:16 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2184-6-21**] 02:30 PM
   Fentanyl - [**2184-6-21**] 02:30 PM
   Metoprolol - [**2184-6-21**] 03:15 PM
   Furosemide (Lasix) - [**2184-6-21**] 08:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-22**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (96.9
   HR: 91 (60 - 128) bpm
   BP: 109/59(72) {68/47(52) - 168/97(107)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  1,530 mL
                                                                     75 mL
   PO:
             TF:
   IVF:
                                                                    990 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    560 mL
   Urine:
                                                                  1,645 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -115 mL
                                                                   -485 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 380 (380 - 380) mL
   Vt (Spontaneous): 374 (374 - 585) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.46/45/85.[**Numeric Identifier 126**]/27/6
   Ve: 7.5 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General: Intubated, NAD, follows commands.
   HEENT: Sclera anicteric, MMM
   Neck: Supple, JVP not elevated
   Lungs: Decreased air movement throughout
   CV: Regular rate and rhythm, normal S1 + S2, [**3-19**] harsh systolic murmur
   at USB
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: Warm, well perfused, no clubbing, cyanosis or edema
   Labs / Radiology
   217 K/uL
   11.8 g/dL
   128 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.5 mEq/L
   30 mg/dL
   98 mEq/L
   136 mEq/L
   35.9 %
   8.8 K/uL
        [image002.jpg]
                             [**2184-6-20**]  03:15 PM
                             [**2184-6-20**]  07:38 PM
                             [**2184-6-21**]  03:42 AM
                             [**2184-6-21**]  12:28 PM
                             [**2184-6-21**]  01:31 PM
                             [**2184-6-21**]  05:16 PM
                             [**2184-6-21**]  08:49 PM
                             [**2184-6-22**]  04:20 AM
   WBC
   6.6
   6.9
   11.6
   8.8
   Hct
   35.6
   33.3
   40.5
   35.9
   Plt
   230
   222
   276
   217
   Cr
   0.8
   0.9
   0.8
   0.9
   0.9
   TropT
   <0.01
   <0.01
   0.01
   TCO2
   30
   33
   Glucose
   122
   168
   205
   70
   128
   Other labs: PT / PTT / INR:13.7/35.5/1.2, CK / CKMB /
   Troponin-T:49/3/0.01, Lactic Acid:1.2 mmol/L, Ca++:7.9 mg/dL, Mg++:2.2
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a [**Age over 90 211**] year-old female with CHF, CAD, AS/AI,
   asthma, presents with respiratory failure.
   .
   # Respiratory failure: Failed SBT yesterday due to flash pulmonary
   edema and MS change.  Respiratory failure yesterday likely
   multifactorial. Initial concern for pneumonia given fever and cough.
   Based on CXR, elevated BNP, and TTE demonstrating LVEF 40% suggesting
   element of heart failure. Additionally, patient was wheezy on admission
   exam concerning for asthma exacerbation, possible as result of
   pneumonia.
   - SBT today with plan to extubate if SBT successful.
   - Continue prednisone 60 mg daily with 14 day taper course.
   - Albuterol and atrovent MDI
   - [**Location 7509**] [**Location **]1.6 L. Lasix 40 mg IV prn with goal TBB -[**Telephone/Fax (1) 179**] mL/day.
   Check lytes [**Hospital1 7**].
   - Discontinue antimicrobials as cultures NGTD.
   .
   # Afib with RVR: HR 90-100s. Switched to home metoprolol regimen
   yesterday.
   - Continue metoprolol, titrate up as necessary with goal HR<100.
   - IV metoprolol and nitro gtt prn for RVR given flash pulmonary edema
   yesterday.
   .
   # Fever: Patient has been afebrile since admission. Likely pulmonary
   source given cough and no other localizing signs or symptoms of
   infection. Blood and urine cx pending, though UA negative. Continues to
   be afebrile in ICU. No leukocytosis.
   - F/u culture data
   - Trend fever/WBC curve
   - Acetaminophen prn
   - Hold antimicrobials as above.
   .
   # BP: Patient hypotensive on admission in ED in the setting of
   intubation and sedation meds. Quickly resolved with IVF.  Hypertensive
   overnight and home BP meds restarted
   - Cont to monitor BP
   - Continue current anti-hypertensive regimen.
   .
   # CAD: h/o MI in [**2178**]. Per OMR, has rest angina at baseline. Trop neg
   in ED, EKG at baseline with old LBBB. ACS ruled out with serial cardiac
   enzymes and repeat ECG.
   - Cont ASA, statin, ACE-I, and BB.
   .
   # Hyperlipidemia: Cont statin
   .
   # Glaucoma: Cont eye drops
   .
   FEN: Nutrition consult for TF, replete as necessary.
   PPx: Heparin SQ, PPI
   Access: PIV
   Code: full code per discussion with sister in law and nephew
   - pt has been clear in discussion with family that she would not want
   to be on a life supporting machine for a prolonged period of time
   Communication: unclear HCP
   - sister in law [**Name (NI) 3578**] [**Name (NI) 1456**] ([**Telephone/Fax (1) 7476**])
   - nephew
   Disposition: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-6-20**] 01:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-06-23 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated.
   - 40 mg IV lasix x1
   - Antibiotics discontinued
   - BB for rate
   Allergies:
   Penicillins
   Rash;
   Triamterene
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2184-6-22**] 08:32 AM
   Meropenem - [**2184-6-22**] 10:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2184-6-22**] 10:48 AM
   Metoprolol - [**2184-6-22**] 11:50 AM
   Heparin Sodium (Prophylaxis) - [**2184-6-23**] 06:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-23**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.8
C (96.5
   HR: 90 (71 - 117) bpm
   BP: 147/60(74) {98/24(38) - 147/82(90)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    900 mL
                                                                    123 mL
   PO:
                                                                    300 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    540 mL
                                                                      3 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    209 mL
   Urine:
                                                                  1,940 mL
                                                                    209 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,040 mL
                                                                    -87 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 506 (377 - 506) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 8.1 L/min
   Physical Examination
   General: Intubated, NAD, follows commands.
   HEENT: Sclera anicteric, MMM
   Neck: Supple, JVP not elevated
   Lungs: Decreased air movement throughout
   CV: Regular rate and rhythm, normal S1 + S2, [**3-19**] harsh systolic murmur
   at USB
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: Warm, well perfused, no clubbing, cyanosis or edema
   Labs / Radiology
   259 K/uL
   12.7 g/dL
   166 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.3 mEq/L
   33 mg/dL
   98 mEq/L
   137 mEq/L
   37.8 %
   7.8 K/uL
        [image002.jpg]
                             [**2184-6-20**]  03:15 PM
                             [**2184-6-20**]  07:38 PM
                             [**2184-6-21**]  03:42 AM
                             [**2184-6-21**]  12:28 PM
                             [**2184-6-21**]  01:31 PM
                             [**2184-6-21**]  05:16 PM
                             [**2184-6-21**]  08:49 PM
                             [**2184-6-22**]  04:20 AM
                             [**2184-6-22**]  08:15 PM
                             [**2184-6-23**]  03:21 AM
   WBC
   6.6
   6.9
   11.6
   8.8
   7.8
   Hct
   35.6
   33.3
   40.5
   35.9
   35.1
   37.8
   Plt
   230
   222
   276
   217
   259
   Cr
   0.8
   0.9
   0.8
   0.9
   0.9
   0.8
   TropT
   <0.01
   <0.01
   0.01
   TCO2
   30
   33
   Glucose
   122
   168
   205
   70
   128
   166
   Other labs: PT / PTT / INR:13.7/35.5/1.2, CK / CKMB /
   Troponin-T:49/3/0.01, Lactic Acid:1.2 mmol/L, Ca++:8.8 mg/dL, Mg++:2.4
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a [**Age over 90 211**] year-old female with CHF, CAD, AS/AI,
   asthma, presents with respiratory failure.
   .
   # Respiratory failure: Extubated successsfully yesterday.  Received 40
   mg IV lasix yesterday, 24h TBB -1.4 L, [**Location 7509**] [**Location **]2.2L. Antimicrobials
   held yesterday.a
   - Continue prednisone taper for total 14 day course.
   - Albuterol and ipratropium nebs
   - Lasix 40 mg PO daily with goal TBB -[**Telephone/Fax (1) 179**] L/day.
   .
   # Afib with RVR: HR 80-100s on home dose of metoprolol.
   - Titrate metoprolol as necessary to maintain goal HR 80-100.
   .
   # Fever: Patient has been afebrile since admission.  Cultures NGTD.
   - Trend fever/WBC curve
   - Acetaminophen prn
   - Hold antimicrobials.
   .
   # BP: Patient hypotensive on admission in ED in the setting of
   intubation and sedation meds. Quickly resolved with IVF.  Hypertensive
   overnight and home BP meds restarted
   - Cont to monitor BP
   - Continue current anti-hypertensive regimen.
   .
   # CAD: h/o MI in [**2178**]. Per OMR, has rest angina at baseline. Trop neg
   in ED, EKG at baseline with old LBBB. ACS ruled out with serial cardiac
   enzymes and repeat ECG.
   - Cont ASA, statin, ACE-I, and BB.
   .
   # Hyperlipidemia: Cont statin
   .
   # Glaucoma: Cont eye drops
   .
   FEN: Regular, replete as necessary.
   PPx: Heparin SQ, PPI
   Access: PIV
   Code: full code per discussion with sister in law and nephew
   - pt has been clear in discussion with family that she would not want
   to be on a life supporting machine for a prolonged period of time
   Communication: unclear HCP
   - sister in law [**Name (NI) 3578**] [**Name (NI) 1456**] ([**Telephone/Fax (1) 7476**])
   - nephew
   Disposition: [**Name2 (NI) **] out today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-6-22**] 06:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: